US07470680B2
tert-butyl 4-(5-methoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate.
To 5-methoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid (398 mg, 1.932 mmol) was added sodium carbonate (410 mg, 3.86 mmol), lithium chloride (164 mg, 3.86 mmol), tert-butyl 4-(trifluoromethylsulfonyloxy)-5,6-dihydropyridine-1(2H)-carboxylate (640 mg, 1.932 mmol) and deairared 1,4-Dioxane (15 mL) at rt temperature, followed by tetrakis (triphenylphosphine)pladdinum (0) (112 mg, 0.097 mol), and H2O (1 mL). The resulting light brown mixture was stirred at 80° C. for 2 hr. After cooling down to rt, the mixture was partitioned between H2O/EtOAc (30 mL/50 mL), and separated. The organic layer was washed with brine (10 mL), dried (Na2SO4), concentrated on rotary vacuo, purified on Biotage Flash Collector eluting with 30˜80% EtOAc/Hexanes (1200 mL) to afford the expected product, tert-butyl 4-(5-methoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate (207 mg, 32%). 1H-NMR (400 MHz, MeOD) δ ppm 1.44-1.51 (m, 9 H) 2.51 (d, J=1.51 Hz, 2 H) 3.59 (s, 2 H) 3.78 (s, 3 H) 3.93 (s, 3 H) 4.04 (s, 2 H) 4.86 (s, 1 H) 5.82 (s, 1 H) 6.39 (d, J=2.52 Hz, 1 H) 7.27 (d, J=3.27 Hz, 1 H) 7.58 (s, 1 H); Mass spec 344.18 (MH+) Calc for C19H25N3O3 343.19.

reactant | 5-methoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid | 1.932 mmol, 398 mg | COC1=C(C=C2C(=N1)C=CN2C)B(O)O | C9H11BN2O3
reactant | sodium carbonate | 3.86 mmol, 410 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 3.86 mmol, 164 mg | [Cl-].[Li+]
reactant | tert-butyl 4-(trifluoromethylsulfonyloxy)-5,6-dihydropyridine-1(2H)-carboxylate | 1.932 mmol, 640 mg | FC(S(=O)(=O)OC1=CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
solvent | H2O | 1 mL | O | H2O
solvent | 1,4-Dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(5-methoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 207 mg, 32% | COC1=C(C=C2C(=N1)C=CN2C)C2=CCN(CC2)C(=O)OC(C)(C)C | C19H25N3O3
